US06380421B1
2′-Ethoxyl-1,1′-biphenyl-2-ol was prepared by modifying the procedure reported in J. Org. Chem. 1981, 46, 4988. In 50 mL of acetone was added 10 g of 2,2′-biphenol and 9.4 g of potassium carbonate. After stirring at room temperature for one hour, a solution of iodoethane (9.2 g in 10 mL of acetone) was added slowly dropwise. The mixture was filtered, washed with acetone, and solvent removed by rotary evaporation. The residue was flashed chromatographed to give 5.1 g of the2′-ethoxyl-1,1′-biphenyl-2-ol as a colorless oil. 1H NMR (C6D6): 7.20 (m, 3H), 7.10 (m, 1H), 7.05 (m, 1H), 6.85 (m, 2H), 6.55 (m, 1H), 3.38 (q, 2H), 0.81 (t, 3H).

reactant | 2,2′-biphenol | 10 g | C=1(C(=CC=CC1)C=1C(=CC=CC1)O)O | C12H10O2
reactant | potassium carbonate | 9.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 10 mL, 9.2 g | ICC | C2H5I
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 2′-Ethoxyl-1,1′-biphenyl-2-ol | O(CC)C1=C(C=CC=C1)C=1C(=CC=CC1)O | C14H14O2
